US07902252B2
2.102. Synthesis of 4-(3-(furan-2-yl)benzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (87)
The title compound was synthesized from methyl 4-(3-(furan-2-yl)benzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.024 g, 0.075 mmol) and lithium hydroxide (0.032 g, 0.76 mmol), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (1.5 mL) was used. The resulting product was purified by reverse phase HPLC, eluting with a gradient of 40-100% MeOH: water (with 0.1% formic acid) to afford a light pink solid: 14 mg, 61% yield. LCMS-MS (ESI−) 306.0 (M−H); HPLC (UV=93.7%), (ELSD=100%).

reactant | methyl 4-(3-(furan-2-yl)benzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.075 mmol, 0.024 g | O1C(=CC=C1)C=1C=C(CC2CCC=3NC(=CC32)C(=O)OC)C=CC1 | C20H19NO3
reactant | lithium hydroxide | 0.76 mmol, 0.032 g | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 4-(3-(furan-2-yl)benzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 61% yield | O1C(=CC=C1)C=1C=C(CC2CCC=3NC(=CC32)C(=O)O)C=CC1 | C19H17NO3
